US07569578B2
(±)-1-(4-Formylpyridin-2-yl)-2-(7-methyl-1H-indazol-5-yl)ethyl 4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxylate
To solid (±)-1-(4-(hydroxymethyl)pyridin-2-yl)-2-(7-methyl-1H-indazol-5-yl)ethyl 4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxylate (28 mg, 0.0518 mmol, 1.0 equiv) was added Dess-Martin reagent (44 mg, 0.104 mmol, 2.0 equiv) and anhydrous methylene chloride (4 mL). The cloudy solution was stirred at room temperature for 2 h. The reaction was quenched with 0.5 N sodium hydroxide. The layers were separated and the organic layer was washed with brine, dried and concentrated to give an off-white solid. Purification by flash column chromatography (10% methanol/methylene chloride) afforded the desired product (23 mg, 82.4%) as an off-white powder. MS (ESI) [M+Na]+=559. 1H-NMR (400 MHz, CDCl3) δ 10.02 (s, 1H), 8.88 (d, J=3.2 Hz, 1H), 7.97 (s, 1H), 7.70-7.40 (m, 3H), 7.26-6.75 (m, 5H), 6.67 (br., 1H), 6.13-5.90 (m, 1H), 4.65-3.75 (m, 4H), 3.50-3.10 (m, 3H), 3.10-2.68 (m, 2H), 2.50 (s, 3H), 1.95-1.38 (m, 5H). HPLC tR=1.59 min.

reactant | (±)-1-(4-(hydroxymethyl)pyridin-2-yl)-2-(7-methyl-1H-indazol-5-yl)ethyl 4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxylate | 0.0518 mmol, 28 mg, 1.0 equiv | O=C1NC2=CC=CC=C2CN1C1CCN(CC1)C(=O)OC(CC=1C=C2C=NNC2=C(C1)C)C1=NC=CC(=C1)CO | C30H32N6O4
reactant | Dess-Martin reagent | 0.104 mmol, 44 mg, 2.0 equiv | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
product | (±)-1-(4-Formylpyridin-2-yl)-2-(7-methyl-1H-indazol-5-yl)ethyl 4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxylate | 23 mg, 82.4% | O=C1NC2=CC=CC=C2CN1C1CCN(CC1)C(=O)OC(CC=1C=C2C=NNC2=C(C1)C)C1=NC=CC(=C1)C=O | C30H30N6O4
